US08440825B2
Preparation of Varenicline Hydrochloride Form II
Varenicline base (2.3 g) was suspended in 20 mL of MTBE. Hydrochloric acid (1.1 g of 37% aqueous solution) was added and the mixture was stirred for 3 h at room temperature. The mixture was filtered and dried under vacuum at 40° C. XRD Analysis: Form II.

reactant | Varenicline | 2.3 g | C=1C=NC2=CC3=C(C=C2N1)C4CC3CNC4 | C13H13N3
reactant | Hydrochloric acid | 1.1 g | Cl | ClH
solvent | MTBE | 20 mL | CC(C)(C)OC | C5H12O
product | Varenicline Hydrochloride | C1C2CNCC1C3=CC4=NC=CN=C4C=C23.Cl | InChI=1S/C13H13N3.ClH/c1-2-16-13-5-11-9-3-8(6-14-7-9)10(11)4-12(13)15-1;/h1-2,4-5,8-9,14H,3,6-7H2;1H
